US04874775
N-(4-chlorophenyl)-N',N'-dimethyl-N-(pyridin-3-ylmethyl)sulfamide
A 2.8 g. portion of 3-(4-chlorophenylaminomethyl)pyridine was dissolved in dichloromethane, and to it was added 2.1 g. of potassium carbonate and 1.6 ml. of dimethylsulfamoyl chloride. The mixture was stirred at ambient temperature for 1 day, and was then stirred under gentle heating for 3 days. The solvent was then evaporated under vacuum, and the oily residue was purified by chromatography on silica gel in chloroform to obtain 3.9 g. of the desired product. Its elemental analysis was as follows.

reactant | 3-(4-chlorophenylaminomethyl)pyridine | ClC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-N',N'-dimethyl-N-(pyridin-3-ylmethyl)sulfamide | ClC1=CC=C(C=C1)N(S(=O)(=O)N(C)C)CC=1C=NC=CC1 | C14H16ClN3O2S
